US07326791B2
(a) 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoic acid
100 g (0.388 mol) of 2-bromoterephthalic acid is dissolved in 700 mL of N,N-dimethylformamide and slowly combined with 69.2 g (0.427 mol) of N,N′-carbonyldiimidazole with stirring. After total dissolution, the mixture is stirred for 15 minutes at ambient temperature and then 48.5 mL (0.582 mol) of pyrrolidine and 93.9 mL (0.854 mol) of N-methylmorpholine are slowly added dropwise one after the other. The mixture is stirred for 2.5 days at ambient temperature and then concentrated in vacuo. The residue is combined with distilled water and acidified with 2 molar hydrochloric acid solution. The aqueous phase is extracted with ethyl acetate. The precipitate formed is suction filtered and dried at 40° C. Yield: 29.4 g (25%); Rf value: 0.30 (silica gel; dichloromethane/ethanol=9:1); C12H12BrNO3 (298.14); mass spectrum: (M+H)+=298/300 (bromine isotope).

reactant | 2-bromoterephthalic acid | 0.388 mol, 100 g | BrC1=C(C(=O)O)C=CC(=C1)C(=O)O | C8H5BrO4
reactant | pyrrolidine | 0.582 mol, 48.5 mL | N1CCCC1 | C4H9N
reactant | N-methylmorpholine | 0.854 mol, 93.9 mL | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 700 mL | CN(C=O)C | C3H7NO
product | 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | BrC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C12H12BrNO3
